US04978753
In the manner given in Example 42, 9-chloro-5-hydroxy-7-(o-chlorophenyl)pyrimido[1,2-a][1,4]benzodiazepin-3(5H)-one acetate was hydrolyzed in ethanol with aqueous sodium hydroixde to give 9-chloro-5-hydroxy-7-(o-chlorophenyl)pyrimido[1,2-a][1,4]benzodiazepin-3(5H)-one.

reactant | 9-chloro-5-hydroxy-7-(o-chlorophenyl)pyrimido[1,2-a][1,4]benzodiazepin-3(5H)-one acetate | C(C)(=O)O.ClC=1C=CC2=C(C(=NC(C=3N2C=CC(N3)=O)O)C3=C(C=CC=C3)Cl)C1
reactant | sodium | [Na] | Na
solvent | ethanol | C(C)O | C2H6O
product | 9-chloro-5-hydroxy-7-(o-chlorophenyl)pyrimido[1,2-a][1,4]benzodiazepin-3(5H)-one | ClC=1C=CC2=C(C(=NC(C=3N2C=CC(N3)=O)O)C3=C(C=CC=C3)Cl)C1 | C18H11Cl2N3O2
